US04762838
Allyl trans-2-[3-(6-Cyanoquinazolin-4(3H)-on-3-yl)-2-oxopropyl]-3-methoxypiperidine-1-carboxylate
By the method of Example 4, 6-cyanoquinazolin-4(3H)-one and allyl trans-2-(3-bromo-2-oxopropyl)-3-methoxypiperidine-1-carboxylate were converted to title compound in 49% yield; 1H-NMR(CDCl3) 1.2-1.9 (m, 4H), 2.9 (d, 2H), 2.9-3.5 (m, 4H), 4.6-6.2 (m, 5H), 5.2 (s, 2H), 7.8-8.6 (m, 4H).

reactant | 6-cyanoquinazolin-4(3H)-one | C(#N)C=1C=C2C(NC=NC2=CC1)=O | C9H5N3O
reactant | allyl trans-2-(3-bromo-2-oxopropyl)-3-methoxypiperidine-1-carboxylate | BrCC(C[C@@H]1N(CCC[C@H]1OC)C(=O)OCC=C)=O | C13H20BrNO4
product | Allyl trans-2-[3-(6-Cyanoquinazolin-4(3H)-on-3-yl)-2-oxopropyl]-3-methoxypiperidine-1-carboxylate | 49% yield | C(#N)C=1C=C2C(N(C=NC2=CC1)CC(C[C@@H]1N(CCC[C@H]1OC)C(=O)OCC=C)=O)=O | C22H24N4O5
